US08471005B2
Into a par bottle, [7-(2-Methoxy-phenyl)-5-vinyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (50.00 mg, 0.0001135 mol), and Ethanol (20 mL, 0.3 mol) were added. Raney-Nickel (0.9:0.1, Nickel:Aluminum, 10 mg, 0.0002 mol) was washed with Ethanol prior to adding to the reaction mixture. The mixture was evacuated and charged with hydrogen at 30 pSi. The reaction was shaken on the parr at 30 pSi for one hour. The solid was filtered through Celite. The organic was evaporated under vacuum to give a yellow solid. The solid was purified via ISCO column chromatography with DCM and MeOH as eluant (0 to 10% methanol). The collected fractions afforded [5-Ethyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine as a yellow solid (18 mg, 36%). MP 154-156° C. LCMS (E/I+) 443.31 (M+H). NMR 1H (DSMO-d6)-9.05 (s, 1H), 8.92 (s, 1H), 7.80 (dd, 1H, JJ=1.57, 6.50 Hz), 7.55 (d, 2H, J=8.96 Hz), 7.43 (dt, 1H, JJ=1.60, 7.00 Hz), 7.20 (d, 1H, J=8.40) 7.10 (t, 1H, J=7.57 Hz, 6.73-6.85 (m, 3H), 3.79 (s, 3H), 3.02 (t, 4H, J=4.60), 2.83 (q, 2H, JJ=7.52, 7.56 Hz), 2.44 (t, 4H, J=5.84), 2.21 (s, 3H), 1.28 (t, 3H, J=7.56 Hz).

reactant | [7-(2-Methoxy-phenyl)-5-vinyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.0001135 mol, 50.00 mg | COC1=C(C=CC=C1)C1=CC(=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C)C=C | C26H28N6O
solvent | Ethanol | C(C)O | C2H6O
catalyst | Raney-Nickel | 0.0002 mol, 10 mg | [Ni] | Ni
solvent | Ethanol | 0.3 mol, 20 mL | C(C)O | C2H6O
product | [5-Ethyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 18 mg, 36% | C(C)C=1C=C(N2N=C(N=CC21)NC2=CC=C(C=C2)N2CCN(CC2)C)C2=C(C=CC=C2)OC | C26H30N6O
